US08871767B2
N-[5-(6-bromoimidazo[1,2-a]pyridin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide
A 20 mL vial is charged with 5-(6-bromoimidazo[1,2-a]pyridin-2-yl)-2-(trifluoromethyl)aniline (0.463 g, 0.0013 mol), acetonitrile (7 mL) and pyridine (0.210 mL). The mixture is added trimethylacetyl chloride (0.320 mL, 2.6 mmol) and stirred for 20 min at 80° C. The solution is concentrated, taken into EtOAc (10 mL) and washed once with HCl (10 mL, 1M) and NaOH (10 mL, 1M). Organics are dried, concentrated, and purified on silica (0-100% EtOAc in Hexanes) to give the title compound (212 mg, 37% yield). LCMS m/z=440.4 [M+H]+, tR=2.67 min.

reactant | 5-(6-bromoimidazo[1,2-a]pyridin-2-yl)-2-(trifluoromethyl)aniline | 0.0013 mol, 0.463 g | BrC=1C=CC=2N(C1)C=C(N2)C=2C=CC(=C(N)C2)C(F)(F)F | C14H9BrF3N3
reactant | acetonitrile | 7 mL | C(C)#N | C2H3N
reactant | trimethylacetyl chloride | 2.6 mmol, 0.320 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 0.210 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-(6-bromoimidazo[1,2-a]pyridin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide | 212 mg, 37% yield | BrC=1C=CC=2N(C1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C(F)(F)F | C19H17BrF3N3O
